FlightController
*SPICE Netlist generated by Advanced Sim server on 2023-05-07 2:04:55 PM
.options MixedSimGenerated

*Schematic Netlist:
RR1 NetR1_1 0 1K TC1=0 TC2=0
RR? NetR1_1 0 1K TC1=0 TC2=0
VV? NetR1_1 0 5 AC 1 0

.PROBE {V(NetR1_1)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.DC V? 0 5.000 500.0m

.END